Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:4][H:5],6.06172758298
[C:1](=[C:2]=[O:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],1.7771108449000002
[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.0273845795799998
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])([H:11])[H:12],-0.247649021709
[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-9.117564534400001
[H:1].[O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-3.70135897825
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]=[C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12],1.14129153316
[C:10]([H:11])([H:12])[H:13].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.96452437125
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-8.2881039548
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[C:10]([H:11])[H:12].[H:1][C:2]=[O:3],0.7144228325190001
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]#[C:5].[O:6]=[C:7][H:8],1.59937709588
[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.768504041769999
[O:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[O:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],2.78816315775
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.07294801756
[O:1]=[C:2]([H:3])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:4][H:5]>>[O:1][C@@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.44171291134
[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.16935607322
[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[O:3])[C:12]([H:13])([H:14])[H:15],1.0956819859
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],1.07676769642
[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[H:5],3.23430897412
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],0.75000812689
[O:1][O:2][C:3]#[C:4][H:5]>>[O:1].[O:2][C:3]#[C:4][H:5],0.7706764289
[C:2](\[H:3])(=[C:4](/[H:5])[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],-3.73209281426
[H:7].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.79370075641
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[C:3]([H:4])([H:5])[H:6],3.56923087021
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2],4.92139341181
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11]>>[C:9][O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],4.260432692819999
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-5.31235798017
[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.32690426348
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])[H:13].[H:8],3.37434125547
